US06124287
A mixture of 0.17 g of 4-hydrazinoimidazo[1,2-a]quinoxaline and 3.4 ml of Raney nickel in 20 ml of water is refluxed for 1.5 h. After cooling down, the mixture is filtered on Celite, followed by washing with methanolic chloroform. The filtrate is concentrated under vacuum and extracted with ethyl acetate. The organic extracts are then washed with saturated NaCl, dried and evaporated, thereby obtaining 0.17 g of imidazo[1,2-a]quinoxalin-4-amine. M.p. (DSC)=205.3° C. (onset); IR (KBr): 3301, 3143, 1653, 1525 cm-1 ; 1 -NMR (CDCl3): δ8.0 (1H,s), 7.8÷7.45 (3H,m), 7.45÷7.2 (2H,m), 5.8 (2H,sb); UV (EtOH): λmax =229, 295, 331 nm. Elementary analysis for C10H3N4 (m.w. 184.20): calcd. C 65.21, H 4.38, N 30.42%; found C 65.48, H 4.71, N 30.10%;.

reactant | 4-hydrazinoimidazo[1,2-a]quinoxaline | 0.17 g | N(N)C=1C=2N(C3=CC=CC=C3N1)C=CN2 | C10H9N5
catalyst | Raney nickel | 3.4 ml | [Ni] | Ni
solvent | water | 20 ml | O | H2O
product | imidazo[1,2-a]quinoxalin-4-amine | 0.17 g | C1=CN=C2N1C1=CC=CC=C1N=C2N | C10H8N4
